US07067529B2
A solution of 4-azidomethyl-1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinoline (550 mg, 1.35 mmol), di-tert-butyl-dicarbonate (443 mg, 2.03 mmol) and glacial acetic acid (200 uL) in distilled tetrahydrofuran (15 mL) was hydrogenated with 50 mg 10% Pd/C at 40 psi for 3 hrs. The solution was filtered through a celite plug and evaporated. The residue was redissolved in ethyl acetate (40 mL) and washed with saturated aqueous ammonium chloride solution (2×10 mL), saturated aqueous sodium bicarbonate solution (10 mL), saturated aqueous sodium chloride solution (10 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-ylmethyl]-carbamic acid tert-butyl ester (650 mg) as a light tan solid which was used without further purification: APCI-MS m/e calcd for C28H36N2O5 (M+H+) 481.6, found 481.1; 1H NMR (300 MHz) compatible.

reactant | 4-azidomethyl-1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinoline | 1.35 mmol, 550 mg | N(=[N+]=[N-])CC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC(C)CC | C23H26N4O3
reactant | di-tert-butyl-dicarbonate | 2.03 mmol, 443 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetic acid | 200 uL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-ylmethyl]-carbamic acid tert-butyl ester | 650 mg | C(C)(C)(C)OC(NCC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC(C)CC)=O | C28H36N2O5
